US04654343
N-Methyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide
A mixture of 2.25 g of N-[3-(6-chloro-3-pyridazinyl)-phenyl]acetamide, 0.48 g of sodium hydride (50% in oil) and 100 ml of dimethylformamide was stirred under argon for 1 hour. To the mixture was added 0.6 ml of methyl iodide and after stirring 5 hours, an additional 0.6 ml of methyl iodide. After stirring overnight, 0.3 g of sodium hydride (50% in oil), then 0.6 ml of methyl iodide were added and stirring continued for 2 hours. The mixture was poured into water, filtered and the filtrate extracted with 60 ml portions of dichloromethane. The extracts were combined, evaporated in vacuo and the residue triturated with hexane. The resulting solid was chromatographed as described in Example 26 to give 1.45 g of product which was recrystallized from dichloromethane-ether to give the desired compound as crystals, mp 118°-120° C.

reactant | N-[3-(6-chloro-3-pyridazinyl)-phenyl]acetamide | 2.25 g | ClC1=CC=C(N=N1)C=1C=C(C=CC1)NC(C)=O | C12H10ClN3O
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.6 ml | CI | CH3I
reactant | methyl iodide | 0.6 ml | CI | CH3I
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | methyl iodide | 0.6 ml | CI | CH3I
solvent | water | O | H2O
product | N-Methyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 1.45 g | CN(C(C)=O)C1=CC(=CC=C1)C=1N=NC(=CC1)Cl | C13H12ClN3O
